US04154746
To a stirred solution at 80° C. of 2.38g (0.1 mol) 1,8-diaminoanthraquinone in 3.16 g (0.2 mol) p-n-butylbenzaldehyde is added about 1 ml. glacial acetic acid. Heating is continued for one hour and 50 ml methanol is added to dissolve the reaction mixture. The solution is poured into 100 ml ice water and the product collected and recrystallized from 1:1 methanol-water as above to give 1,8-bis(p-n-butylbenzylidene amino)anthraquinone as fine purple needles, melting with decomposition at 288°-9° C.

reactant | 1,8-diaminoanthraquinone | 0.1 mol, 2.38g | NC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)N)=O | C14H10N2O2
reactant | p-n-butylbenzaldehyde | 0.2 mol, 3.16 g | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 1,8-bis(p-n-butylbenzylidene amino)anthraquinone | C(CCC)C1=CC=C(C=NC2=CC=CC=3C(C4=CC=CC(=C4C(C23)=O)N=CC2=CC=C(C=C2)CCCC)=O)C=C1 | C36H34N2O2
